US06897231B2
[3-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL-N-CYCLOHEXYLCARBOXAMIDE
The title compound was prepared as described in Example 381, using methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate (0.401 g, 0.62 mmol) and lithium hydroxide (0.046 g, 1.92 mmol) in tetrahydrofuran (3 mL) and water (2 mL); 1-hydroxybenzotriazole (0.252 g, 1.86 mmol), cyclohexylamine (0.213 mL, 1.86 mmol), 1-ethyl-(3-dimethylaminopropyl) carbodiimide hydrochloride (0.357 g, 1.86 mmol), and additional tetrahydrofuran (2 mL); 4 N hydrochloride solution in dioxane (10 mL). The final crude product was purified by preparative HPLC (10-90% acetonitrile to H2O, 20 min.) (0.015 g, 6% yield over 3 steps): 1H NMR (CD3OD) δ 8.79 (s, 1H), 8.43 (t, 1H), 8.40 (br s, 1H), 8.19 (dt, 1H), 8.12 (d, 1H), 7.88 (dt, 1H), 7.70 (d, 1H), 7.65 (t, 1H), 3.92 (br s, 1H), 2.01 (m, 2H), 1.83 (m, 2H), 1.71 (d, 1H), 1.43 (m, 4H), 1.25 (m, 1H); ES-MS (m/z) 387 [M+1]+.

reactant | methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate | 0.62 mmol, 0.401 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C41H35N5O3
reactant | lithium hydroxide | 1.92 mmol, 0.046 g | [OH-].[Li+]
reactant | 1-hydroxybenzotriazole | 1.86 mmol, 0.252 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | cyclohexylamine | 1.86 mmol, 0.213 mL | C1(CCCCC1)N | C6H13N
reactant | 1-ethyl-(3-dimethylaminopropyl) carbodiimide hydrochloride | 1.86 mmol, 0.357 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydrochloride | 4 N | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL-N-CYCLOHEXYLCARBOXAMIDE | 6% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NC1CCCCC1 | C22H22N6O
